* C:\Users\scott\Code\predictive-edu\Monte Carlo\circuit.asc
R1 N001 Vin 100
R2 OUTPUT N001 { mc(200,0.1) }
V1 Vin 0 SINE(0 2 500)
V2 V+ 0 12
V3 0 V- 12
XU1 0 N001 V+ V- OUTPUT LT1028
* Inverting Amplifier Circuit
.tran 10m
.step param o 1 50 1
.lib LTC.lib
.backanno
.end
